US09353107B2
Step-iii: N-(3-(3-(1-(2-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide
N-(3-(3-(1-(2-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide (200 mg) dissolved in 12.5 ml of THF-water-methanol (1:1:0.5) mixture and added lithium hydroxide (40.8 mg, 0.97 mmol) at 0° C. and stirred at room temperature for 15 h. The reaction was monitored by TLC (100% ethyl acetate in hexane) until TLC indicated that reaction was complete. The reaction mixture was diluted with ethyl acetate (25 ml) and washed with water (2×25 ml). The organic layer was dried over Na2SO4, and concentrated under reduced pressure to afford crude product. Purification by preparative TLC (5% methanol in DCM) afforded 17 mg (14.99% yield) of tilted compound. 1H NMR (DMSO-d6, 300 MHz): δ 9.83 (s, 1H), 8.479-8.472 (d, 1H), 8.38 (s, 1H), 8.33-8.32 (d, 1H), 7.95-7.78 (m, 2H), 7.53-7.43 (m, 4H), 7.27-7.18 (m, 3H), 5.44 (s, 2H), 3.05 (s, 1H). MS: m/z=462.1 (M+1), HPLC: 95.83% in method A.

reactant | N-(3-(3-(1-(2-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 200 mg | FC1=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC=C1 | C31H26FN5O4S2
reactant | lithium hydroxide | 0.97 mmol, 40.8 mg | [OH-].[Li+]
solvent | THF water methanol | 12.5 ml | C1CCOC1.O.CO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-(3-(1-(2-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 17 mg, 14.99% yield | FC1=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)C=CC=C1 | C24H20FN5O2S
